US05218109
The procedure of Example 6 was repeated except that 105 mg of 1α,3β-bis(methoxymethoxy)pregna-5,7-diene-20-carbaldehyde was used in lieu of 120 mg of 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carbaldehyde to give 80 mg of 1α,3β-bis(methoxymethoxy)pregna-5,7-diene-20-carboxylic acid.

reactant | 1α,3β-bis(methoxymethoxy)pregna-5,7-diene-20-carbaldehyde | 105 mg | COCO[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)OCOC | C26H40O5
reactant | 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carbaldehyde | 120 mg | COC(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)OC(=O)OC | C26H36O7
product | 1α,3β-bis(methoxymethoxy)pregna-5,7-diene-20-carboxylic acid | 80 mg | COCO[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C(=O)O)[C@]4(CC[C@@H]3[C@@]12C)C)OCOC | C26H40O6
